US06395351B1
In an analogous fashion to Example 1b the product was prepared using 6.13 g (20 mmols) of 2-hydroxy-5-(4-oxocyclohexyl)benzoic acid pentyl ester and 0.76 g (200 mmols) NaBH4. Recrystallisation from isopropanol gave the 2-hydroxy-5-(trans-4-hydroxycyclohexyl)benzoic acid pentyl ester product.

reactant | 2-hydroxy-5-(4-oxocyclohexyl)benzoic acid pentyl ester | 20 mmols, 6.13 g | C(CCCC)OC(C1=C(C=CC(=C1)C1CCC(CC1)=O)O)=O | C18H24O4
reactant | NaBH4 | 200 mmols, 0.76 g | [BH4-].[Na+]
product | 2-hydroxy-5-(trans-4-hydroxycyclohexyl)benzoic acid pentyl ester | C(CCCC)OC(C1=C(C=CC(=C1)[C@@H]1CC[C@H](CC1)O)O)=O | C18H26O4
